US05908944
14.3 mg (0.1 mmol) of CuBr is added at room temperature to 818 mg (2 mmol) of 17β-acetoxy-2-bromo-5α-androst-1-en-3-one (produced according to J. Org. Chem. 1982, 47, 5090; from 17β-acetoxy-2-brom-5α-androst-1-en-3-one) in 4 ml of ethyl acetate. 1.9 ml (2.2 mmol) of a 10% solution of trimethyl aluminum in toluene is instilled at room temperature. It is stirred at room temperature for 45 minutes. For hydrolysis, 0.18 ml of water is added, the solid is suctioned off and washed again with ethyl acetate. The solution is concentrated by evaporation and the residue is chromatographed on silica gel with hexane/ethyl acetate as eluent. After concentration by evaporation of the chromatography fractions, 600 mg of 17β-acetoxy-2α-bromo-1α-methyl-5α-androstan-3-one is obtained.

reactant | 17β-acetoxy-2-bromo-5α-androst-1-en-3-one | 2 mmol | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C(=C[C@]3(C)[C@H]1CC2)Br)=O | C21H29BrO3
reactant | trimethyl aluminum | C[Al](C)C
reactant | water | 0.18 ml | O | H2O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 17β-acetoxy-2α-bromo-1α-methyl-5α-androstan-3-one | 600 mg | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC([C@@H]([C@@H]([C@]3(C)[C@H]1CC2)C)Br)=O | C22H33BrO3
